US04766222
(b) Preparation of cyclohexyl acetyl carnitine chloride
Carnitine chloride (2.97 g; 0.01 moles) was dissolved in trifluoro acetic acid (10 cc). To this solution was added cyclohexyl acetyl chloride (0.01 moles) prepared as previously disclosed and the resulting mixture was kept under stirring for 48 hours. Ethyl ether was then added and the resulting mixture was kept under stirring for 0.5 hours at 0° C. A precipitate was obtained, which was filtered off and dried under vacuum.

reactant | Carnitine chloride | 0.01 moles, 2.97 g | C[N+](C)(C)CC(CC(=O)[O-])O | C7H15NO3
reactant | cyclohexyl acetyl chloride | 0.01 moles | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | trifluoro acetic acid | 10 cc | FC(C(=O)O)(F)F | C2HF3O2
product | cyclohexyl acetyl carnitine chloride | C1(CCCCC1)C(C(O)(CC([O-])=O)C(C)=O)[N+](C)(C)C.[Cl-] | InChI=1S/C15H27NO4.ClH/c1-11(17)15(20,10-13(18)19)14(16(2,3)4)12-8-6-5-7-9-12;/h12,14,20H,5-10H2,1-4H3;1H/p-1
